US07427683B2
c) 5-Cyano-furan-2-carboxylic acid (4-imidazol-1-yl-2-piperidin-1-yl-phenyl)-amide
Using a procedure similar to Example 3, step (d), 4-imidazol-1-yl-2-piperidin-1-yl-phenylamine (69 mg, 0.28 mmol, as prepared in the previous step) was allowed to react with 5-cyano-furan-2-carbonyl chloride (56 mg, 0.36 mmol) in the presence of DIEA (138 μL, 0.790 mmol) to afford 44.9 mg (44%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 9.65 (br s, 1H), 8.57 (d, 1H, J=9.3 Hz), 7.84 (s, 1H), 7.34 (d, 1H, J=3.7 Hz), 7.28-7.27 (m, 2H), 7.22-7.20 (m, 3H), 2.93-2.90 (m, 4H), 1.88-1.85 (m, 4H), 1.72 (br s, 2H); Mass spectrum (ESI, m/z): Calcd. for C20H19N5O2, 362.1 (M+H), found 362.2.

reactant | 4-imidazol-1-yl-2-piperidin-1-yl-phenylamine | N1(C=NC=C1)C1=CC(=C(C=C1)N)N1CCCCC1 | C14H18N4
reactant | 5-cyano-furan-2-carbonyl chloride | 0.36 mmol, 56 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | DIEA | 0.790 mmol, 138 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyano-furan-2-carboxylic acid (4-imidazol-1-yl-2-piperidin-1-yl-phenyl)-amide | 44.9 mg, 44% | N1(C=NC=C1)C1=CC(=C(C=C1)NC(=O)C=1OC(=CC1)C#N)N1CCCCC1 | C20H19N5O2
